US05102882
A mixed solution of 2.3 g of N-(2-pyrrolidone-5-carbonyl)piperazine, 50 ml of methylene chloride, and 2.8 g of anhydrous potassium carbonate was cooled with ice water and 1.3 g of chloro acetyl chloride was dropped therein with stirring. After the dropping, the mixture was stirred for another 1 hour at room temperature. The insoluble matter was removed by filtration and the solvent was evaporated in vacuo from the filtrate to give 2.3 g of oily N-(2-pyrrolidone-5-carbonyl)-N'-chloroacetylpiperazine. This was dissolved in 15 ml of N,N-dimethylformamide and 0.8 g of morpholine and 2.2 g of anhydrous potassium carbonate were added thereto, and the mixture was heated at 80° C. for 3 hours with stirring. The insoluble matter was filtered off therefrom and the solvent was evaporated in vacuo from the filtrate. The residue was purified by a silica gel column chromatography to give 2.5 g of the product. This was recrystallized from a mixture of methanol and ethyl ether to give 2.1 g of desired product, m.p. 204°-205° C.

reactant | N-(2-pyrrolidone-5-carbonyl)piperazine | 2.3 g | N1C(CCC1C(=O)N1CCNCC1)=O | C9H15N3O2
reactant | potassium carbonate | 2.8 g | C([O-])([O-])=O.[K+].[K+]
reactant | chloro acetyl chloride | 1.3 g | ClCC(=O)Cl | C2H2Cl2O
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
product | N-(2-pyrrolidone-5-carbonyl)-N'-chloroacetylpiperazine | 2.3 g | N1C(CCC1C(=O)N1CCN(CC1)C(CCl)=O)=O | C11H16ClN3O3
